US08937092B2
To a stirred solution of methyl 2-(3-chloro-4-cyanophenyl)acetate (931 mg, 4.441 mmol) in dimethylformamide were added 60% sodium hydride (178 mg, 4.441 mmol) and iodomethane (0.3 mL, 4.441 mmol) at 0° C. The reaction mixture was stirred for 1 h at 0° C., then diluted with water. The residue dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography to give methyl 2-(3-chloro-4-cyanophenyl)propanoate (642 mg, 65%).

reactant | methyl 2-(3-chloro-4-cyanophenyl)acetate | 4.441 mmol, 931 mg | ClC=1C=C(C=CC1C#N)CC(=O)OC | C10H8ClNO2
reactant | sodium hydride | 4.441 mmol, 178 mg | [H-].[Na+]
reactant | iodomethane | 4.441 mmol, 0.3 mL | IC | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(3-chloro-4-cyanophenyl)propanoate | 642 mg, 65% | ClC=1C=C(C=CC1C#N)C(C(=O)OC)C | C11H10ClNO2
